US06313312B1
3-Hexyl-6-methyl-6-[3-(2-pyridyl)phenyl]-3-azabicyclo[3.1.0]hexane
3-Hexyl-6-methyl-6-[3-(2-pyridinyl)phenyl]-3-azabicyclo[3.1.0]hexan-2-one (Preparation 68, 33 mg, 0.09 mmol) was dissolved in tetrahydrofuran (10 ml) at 0° C. Lithium alumninium hydride (1M in tetrahydrofuran, 0.2 ml, 0.2 mmol) was added under nitrogen and then the reaction mixture was stirred at room temperature for 16 h. The reaction mixture was quenched by adding aqueous sodium hydroxide solution (2N, 0.4 ml), followed by solid sodium hydrogen carbonate and ethyl acetate. The reaction mixture was stirred vigorously and then filtered through Celite®. The filtrate was concentrated in vacuo and the residue was chromatographed on silica gel eluting with ethyl acetate to give the product as a colourless oil (13 mg, 41%).

reactant | 3-Hexyl-6-methyl-6-[3-(2-pyridinyl)phenyl]-3-azabicyclo[3.1.0]hexan-2-one | 0.09 mmol, 33 mg | C(CCCCC)N1C(C2C(C2C1)(C1=CC(=CC=C1)C1=NC=CC=C1)C)=O | C23H28N2O
reactant | Lithium | [Li] | Li
reactant | hydride | 0.2 mmol, 1M, 0.2 ml | [H-]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-Hexyl-6-methyl-6-[3-(2-pyridyl)phenyl]-3-azabicyclo[3.1.0]hexane | 13 mg, 41% | C(CCCCC)N1CC2C(C2C1)(C1=CC(=CC=C1)C1=NC=CC=C1)C | C23H30N2
